* source AMP-MOSFET-160W
Q_Q1         N18155 N18293 N18265 BC556B 
Q_Q3         N16611 N16611 N19057 QMJE350/ON 
Q_Q4         N17995 N18155 N18063 QMJE340/ON 
X_U1         N15896 N16847 N16960 ECX10N20
X_U2         N15974 N18954 N18946 ECX10P20
V_V3         N14956 0  AC 0.1V
+SIN 0V 0.1V 1kHz 0 0 0
C_C1         N14956 N14972  2.2u  TC=0,0 
R_R3         0 N14972  33k TC=0,0 
V_V2         N15896 0 69Vdc
V_V1         0 N15974 +69Vdc
R_R4         N18336 N14972  1k TC=0,0 
C_C2         0 N18336  1n  TC=0,0 
Q_Q5         N18159 N18336 N18265 BC556B 
R_R5         N18265 N16431  22k TC=0,0 
R_R6         N17790 N18293  33k TC=0,0 
R_R7         N18307 N18293  1k TC=0,0 
C_C3         0 N18307  47u  TC=0,0 
Q_Q6         N16431 N16404 N16418 BC556B 
Q_Q7         N16404 N16418 N18639 BC556B 
R_R8         N16418 N18639  680 TC=0,0 
R_R9         0 N16404  22k TC=0,0 
D_D1         N15896 N18669 D1N4002 
R_R10         N18669 N18639  100 TC=0,0 
R_R11         N19057 N18639  100R TC=0,0 
Q_Q8         N17883 N16611 N19008 QMJE350/ON 
X_R12         N17894 N17894 N17883 POT PARAMS: SET=0.7 VALUE=200R
C_C4         N17894 N17883  100n  TC=0,0 
R_R13         N17995 N16611  12k TC=0,0 
C_C5         N17995 N16611  10n  TC=0,0 
X_U3         N15896 N16843 N16956 ECX10N20
R_R14         N17790 N16960  0.22R TC=0,0 
R_R15         N16847 N17883  220R TC=0,0 
R_R16         N16843 N17883  220R TC=0,0 
C_C6         N16843 N16956  470p  TC=0,0 
C_C7         N16847 N16960  330p  TC=0,0 
C_C8         N16960 N16956  220n  TC=0,0 
R_R17         N17790 N16956  0.22R TC=0,0 
R_R18         N18946 N17790  0.22R TC=0,0 
X_U4         N15974 N18950 N18942 ECX10P20
R_R19         N18942 N17790  0.22R TC=0,0 
R_R20         N18954 N17894  220R TC=0,0 
R_R21         N18950 N17894  220R TC=0,0 
D_D2         N17790 N17890 BZX84C12V/PLP 
D_D3         N17883 N17890 D1N914 
D_D5         N17894 N17901 BZX84C12V/PLP 
D_D4         N17790 N17901 D1N914 
Q_Q9         N17894 N18159 N18063 QMJE340/ON 
C_C9         N18159 N17894  18p  TC=0,0 
R_R22         N18177 N18063  100R TC=0,0 
R_R23         N18177 N18159  4.7k TC=0,0 
R_R24         N18177 N18155  4.7k TC=0,0 
C_C10         N18567 N17790  22n  TC=0,0 
R_R25         0 N18567  6.8R TC=0,0 
C_C11         0 N18639  100u  TC=0,0 
D_D6         N18886 N15974 D1N4002 
R_R26         N18886 N18177  100 TC=0,0 
C_C12         0 N18177  100u  TC=0,0 
R_R27         N19008 N18639  100R TC=0,0 
R_R28         0 N17790  4R TC=0,0 
